US05149700
Step 1) Preparation of 2-Hydroxy-5-nitro-1H-benzimidazole
According to the procedure of A. T. James, et al., J. Chem. Soc., 1515, (1950), to cooled (0° C.), stirred nitric acid (300 mL) was added all at once 2-hydroxy-1H-benzimidazole. After 1 minute a yellow precipitate had formed. The cooling bath was removed and stirring was continued for 10 minutes. The mixture was poured onto ice, and the off-white solid was collected by filtration and dried under vacuum at 60° C. to give 25.1 g (94%) of product m.p. >300° C.

reactant | 2-hydroxy-1H-benzimidazole | OC1=NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | nitric acid | 300 mL | [N+](=O)(O)[O-] | HNO3
product | 2-Hydroxy-5-nitro-1H-benzimidazole | 25.1 g, 94% | OC1=NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O3
